US04243807
To a solution of 58 ml of thionyl chloride in 250 ml of chloroform, there is added dropwise a solution of 45 g (0.39 mole) of 4-hydroxymethylpiperidine in 200 ml of chloroform. After stirring for 1 hour under reflux, the reaction mixture is evaporated in a vacuum and the residue is triturated with diethyl ether. There are obtained 54.2 g of 4-chloromethylpiperidine hydrochloride (88% of theory); m.p. 130°-132° C.

reactant | thionyl chloride | 58 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxymethylpiperidine | 0.39 mole, 45 g | OCC1CCNCC1 | C6H13NO
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloromethylpiperidine hydrochloride | 54.2 g, 88% | Cl.ClCC1CCNCC1 | InChI=1S/C6H12ClN.ClH/c7-5-6-1-3-8-4-2-6;/h6,8H,1-5H2;1H
